US07696223B2
a) 2-[2-(4-Fluoro-phenyl)-2-oxo-ethyl]-3-oxo-butyric acid ethyl ester
A mixture of 2-chloro-1-(4-fluoro-phenyl)-ethanone (4.83 g, 28.0 mmol), ethyl acetoacetate sodium salt (4.26 g, 28.0 mmol) and sodium iodide (420 mg, 2.80 mmol) in acetone (50 mL) was refluxed for 1 h; then the solvents were evaporated, the residue was partitioned between EtOAc and 1 M HCl aqueous solution, the organic phase was washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, filtered, concentrated, to give a brown liquid, the title product (7.334 g); 1H NMR (200 MHz, CDCl3): δ (ppm)=8.1-7.9 (m, 2H), 7.2-7.1 (m, 2H), 4.22 (q, 2H, J=6.8 Hz), 4.2-4.0 (m, 1H), 3.8-3.4 (m, 2H), 2.44 (s, 3H), 1.30 (t, 3H, J=6.8 Hz).

reactant | 2-chloro-1-(4-fluoro-phenyl)-ethanone | 28.0 mmol, 4.83 g | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
reactant | ethyl acetoacetate sodium salt | 28.0 mmol, 4.26 g | [Na].C(CC(=O)C)(=O)OCC
reactant | sodium iodide | 2.80 mmol, 420 mg | [I-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2-[2-(4-Fluoro-phenyl)-2-oxo-ethyl]-3-oxo-butyric acid ethyl ester | 7.334 g | C(C)OC(C(C(C)=O)CC(=O)C1=CC=C(C=C1)F)=O | C14H15FO4
